US09260442B2
tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-methyl-propyl]carbamate is synthesized by treating 5-Bromo-2,4-dichloropyrimidine with tert-butyl N-(2-amino-2-methyl-propyl)carbamate using similar experimental conditions as described for the synthesis of tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate. LCMS (ESI) (M+H) 379

reactant | 5-Bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-(2-amino-2-methyl-propyl)carbamate | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]ethyl]carbamate | BrC=1C(=NC(=NC1)Cl)NCCNC(OC(C)(C)C)=O | C11H16BrClN4O2
product | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-methyl-propyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)(C)C | C13H20BrClN4O2
